US03998808
1-(α-Chloroacetyl) azetidine (13 grams; 0.1 mol), potassium thiocyanate (18 grams; 0.18 mol) and ethanol (100 ml) are charged into a glass reaction flask equipped with stirrer and reflux condenser. The reaction mixture is then heated at reflux, with stirring, for a period of about 4 hours. After this time the reaction mixture is cooled and filtered. The filtrate is then stripped of ethanol leaving a residue. The residue is extracted twice with hot benzene and the two benzene extracts are combined. The benzene extract is then evaporated under reduced pressure to yield 1-(α-thiocyanoacetyl) azetidine as a residue.

reactant | 1-(α-Chloroacetyl) azetidine | 0.1 mol, 13 grams | ClCC(=O)N1CCC1 | C5H8ClNO
reactant | potassium thiocyanate | 0.18 mol, 18 grams | [S-]C#N.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(α-thiocyanoacetyl) azetidine | S(C#N)CC(=O)N1CCC1 | C6H8N2OS
